US06528510B1
A solution of 8.5 g (51 mmol) of (4-hydroxy-2-methyl-phenyl)-acetic acid (Indian J. Chem. Sect B. 26, 1987:679-682), tert-butanol (60 g), and conc. sulfuric acid (2 mL) was stirred at 70° C. for 5 days. The solution was cooled to room temperature, poured into water, and extracted with EtOAc. The organic extract was washed with brine, dried (MgSO4), and concentrated to give (5-tert-butyl-4-hydroxy-2-methyl-phenyl)-acetic acid.

reactant | (4-hydroxy-2-methyl-phenyl)-acetic acid | 51 mmol, 8.5 g | OC1=CC(=C(C=C1)CC(=O)O)C | C9H10O3
reactant | tert-butanol | 60 g | C(C)(C)(C)O | C4H10O
reactant | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | (5-tert-butyl-4-hydroxy-2-methyl-phenyl)-acetic acid | C(C)(C)(C)C=1C(=CC(=C(C1)CC(=O)O)C)O | C13H18O3
